US04742060
A mixture of 2.9 g of 2-nitroiminothiazolidine, 2.9 g of anhydrous potassium carbonate, 3.2 g of 2-chloro-5-pyridylmethylchloride and 50 ml of acetonitrile was refluxed for 5 hours with vigorously stirring. After the reaction, most of the acetonitrile was removed by distillation and water was added to the residue. As the solid product was separated, it was collected by filtration. The crude material was recrystallized from ethanol to give desired 3-(2-chloro-5-pyridylmethyl)-2-(nitroimino)thiazolidine.

reactant | 2-nitroiminothiazolidine | 2.9 g | [N+](=O)([O-])N=C1SCCN1 | C3H5N3O2S
reactant | potassium carbonate | 2.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-5-pyridylmethylchloride | 3.2 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 3-(2-chloro-5-pyridylmethyl)-2-(nitroimino)thiazolidine | ClC1=NC=C(C=C1)CN1C(SCC1)=N[N+](=O)[O-] | C9H9ClN4O2S
